US07569600B2
A mixture of 8-Azido-1,4-dioxa-spiro[4.5]decane (1.00 g, 5.43 mmol) and 1-(trimethylsilyl)propyne (3.76 mL, 27.1 mmol) was submitted to microwave at 120° C. for 2 h. The mixture was concentrated under vacuum to remove the excess of 1-(trimethylsilyl)propyne and crude 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-4-trimethylsilanyl-1H-[1,2,3]triazole (1.6 g, 105%) was obtained.

reactant | 8-Azido-1,4-dioxa-spiro[4.5]decane | 5.43 mmol, 1.00 g | N(=[N+]=[N-])C1CCC2(OCCO2)CC1 | C8H13N3O2
reactant | 1-(trimethylsilyl)propyne | 27.1 mmol, 3.76 mL | C[Si](C#CC)(C)C | C6H12Si
product | 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-4-trimethylsilanyl-1H-[1,2,3]triazole | 1.6 g, 105% | O1CCOC12CCC(CC2)N2N=NC(=C2)[Si](C)(C)C | C13H23N3O2Si
